US04812573
5-Phenylsulphonamido-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.7 g) was reacted with ethyl 4-bromobutyrate in the manner described in Example 2(a). After elution from a silica column with ethyl acetate:methanol mixtures, the product was recrystallised from ethanol to give ethyl 4-[5-phenylsulphonamido-1,2,3,4-tetrahydroisoquinolin-2-yl]butyrate as a white solid (2.0 g).

reactant | 5-Phenylsulphonamido-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.7 g | Cl.C1(=CC=CC=C1)S(=O)(=O)NC1=C2CCNCC2=CC=C1
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | ethyl 4-[5-phenylsulphonamido-1,2,3,4-tetrahydroisoquinolin-2-yl]butyrate | 2.0 g | C1(=CC=CC=C1)S(=O)(=O)NC1=C2CCN(CC2=CC=C1)CCCC(=O)OCC | C21H26N2O4S
